US07842713B2
Preparation of Intermediate 3g: 4-Bromo-3,5-dihydroxybenzoic acid methyl ester
To a solution of 4-bromo-3,5-dihydroxybenzoic acid (13.89 g, 59.6 mmol) in methanol (50 mL) was added H2SO4 (concentrated, 1 mL). The reaction mixture was heated to reflux overnight. The mixture was quenched with H2O (500 mL) and extracted with 10% MeOH in CH2Cl2 (5×500 mL), dried over MgSO4 and concentrated in vacuo to give a white solid (14.8 g, 100% yield). 1H NMR (400 MHz, DMSO-d6) δ 10.47 (s, 2 H) 7.00 (s, 2 H) 3.80 (s, 3 H); LCMS for C8H7BrO4 m/z 249.10 (M+H)+.

reactant | 4-bromo-3,5-dihydroxybenzoic acid | 59.6 mmol, 13.89 g | BrC1=C(C=C(C(=O)O)C=C1O)O | C7H5BrO4
reactant | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
reactant | methanol | 50 mL | CO | CH4O
product | 4-Bromo-3,5-dihydroxybenzoic acid methyl ester | 14.8 g, 100% yield | COC(C1=CC(=C(C(=C1)O)Br)O)=O | C8H7BrO4
